US08134007B2
2-[5-Fluoro-2-(2-methoxyethoxy)-phenyl]-4,4,5,5-tetramethyl-[1,3,2]-dioxaborolane
The mixture of 2-bromo-4-fluoro-1-(2-methoxyethoxy)-benzene (Preparation 62, 1.0 g, 4.01 mmol), bis(pinacolato)diboron (1.27 g, 5.02 mmol), potassium acetate (1.58 g, 16.1 mmol) and 1,1′-[bis(diphenylphosphino)-ferrocene]dichloropalladium (II) (0.29 g, 0.39 mmol) in N,N-dimethylformamide (10 ml) was degassed three times and heated at 100° C. for 14 hours. The reaction mixture was cooled then the solvent was removed in vacuo. The crude product was diluted with tert-butyl-dimethyl ether (30 ml) and filtered through Arbocel™. The filtrate was washed with water (10 ml) then saturated brine solution (10 ml) before drying over anhydrous Na2SO4 (s). The solution was filtered then evaporated in vacuo to give crude title compound as a dark brown oil. This was dissolved in tert-butyl-dimethyl ether:heptane (10 ml:10 ml) and was washed with sodium bicarbonate (aqueous solution) to remove residual N,N-dimethylformamide traces. This afforded the title compound as a brown oil (975 mg, 82%). Material was taken on with no further purification.

reactant | 2-bromo-4-fluoro-1-(2-methoxyethoxy)-benzene | 4.01 mmol, 1.0 g | BrC1=C(C=CC(=C1)F)OCCOC | C9H10BrFO2
reactant | bis(pinacolato)diboron | 5.02 mmol, 1.27 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 16.1 mmol, 1.58 g | C(C)(=O)[O-].[K+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-[5-Fluoro-2-(2-methoxyethoxy)-phenyl]-4,4,5,5-tetramethyl-[1,3,2]-dioxaborolane | 975 mg, 82% | FC=1C=CC(=C(C1)B1OC(C(O1)(C)C)(C)C)OCCOC | C15H22BFO4
